US07220862B2
(±)-1-[1,4′]Bipiperidinyl-1′-yl-2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propan-1-one
To a solution of 2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propionic acid methyl ester (1.0 g, 2.5 mmol) in methanol (6 mL) was added a solution of lithium hydroxide monohydrate (400 mg, 3.9 equiv) in water (1 mL). The reaction was stirred 6 h, cooled to 0° C., neutralized with concentrated hydrochloric acid, and concentrated. The crude acid was used without purification. The crude acid was suspended in methylene chloride (25 mL), treated with a few drops of methanol to aid in dissolving the acid, and cooled to 0° C. The resulting suspension was treated sequentially with 4-piperidyl-piperidine (0.53 g, 1.25 equiv), triethylamine (0.70 mL, 2. equiv), and bis-2-oxo-3-oxazolidinyl)phoshinic chloride (0.80 g, 1.25 equiv). The reaction was allowed to warm to room temperature overnight. The reaction was concentrated and then purified by Prep HPLC to afford 310 mg (23%, 2 steps). Mass spec.: 539.49 (MH)+.

reactant | 2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propionic acid methyl ester | 2.5 mmol, 1.0 g | COC(C(CN1CCC(CC1)O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C19H34N2O7
reactant | lithium hydroxide monohydrate | 400 mg, 3.9 equiv | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | 4-piperidyl-piperidine | 0.53 g, 1.25 equiv | N1CCC(CC1)N1CCCCC1 | C10H20N2
reactant | phoshinic chloride | 0.80 g, 1.25 equiv | [PH2](=O)Cl | ClH2OP
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | triethylamine | 0.70 mL | C(C)N(CC)CC | C6H15N
product | (±)-1-[1,4′]Bipiperidinyl-1′-yl-2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propan-1-one | N1(CCCCC1)C1CCN(CC1)C(C(CN1CCC(CC1)O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C28H50N4O6
